US08293735B2
1H-Thieno[3,2-d]pyrimidine-2,4-dione
A mixture of methyl 3-amino-2-thiophenecarboxylate (13.48 g, 85.85 mmol) and urea (29.75 g, 5 equivalents) was heated at 190° C. for 2 hours. The hot reaction mixture was then poured onto sodium hydroxide solution (2N, 300 mL) and any insoluble material removed by filtration. The mixture was then acidified to pH 6 by the addition concentrated HCl with cooling. The resultant white precipitate was collected by filtration and air dried (9.49 g, 66%).

reactant | methyl 3-amino-2-thiophenecarboxylate | 85.85 mmol, 13.48 g | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
reactant | urea | 29.75 g, 5 equivalents | NC(=O)N | CH4N2O
product | 1H-Thieno[3,2-d]pyrimidine-2,4-dione | N1C(NC(C2=C1C=CS2)=O)=O | C6H4N2O2S
